US04058550
A mixture of 1.00 g of 4-(n-hexadecylamino)benzoic acid hydrochloride and 5.00 ml of thionyl chloride is allowed to stand at ambient temperature for 20 hours and then is concentrated in vacuo to yield 4-(n-hexadecylamino)benzoyl chloride hydrochloride as an orange solid.

reactant | 4-(n-hexadecylamino)benzoic acid hydrochloride | 1.00 g | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1
reactant | thionyl chloride | 5.00 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(n-hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C23H38ClNO.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-20-25-22-18-16-21(17-19-22)23(24)26;/h16-19,25H,2-15,20H2,1H3;1H
